US08957068B2
A solution of (S)-tert-butyl 1-(3-fluoro-4-formylphenyl)ethylcarbamate (267 mg, 1 mmol) and 1,2,2-trimethylpiperazine dihydrochloride (402 mg, 2 mmol) in THF (5 mL) was stirred at room temperature for 1 h and treated with sodium triacetoxyborohydride (848 mg, 4 mmol). The resulting mixture was stirred at room temperature for 16 h. The reaction mixture was quenched with saturated aqueous solution of NaHCO3 (15 mL) and extracted with EtOAc (3×25 mL). Combined organics were dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (MeOH/CH2Cl2 0 to 10%) provided (S)-tert-butyl 1-(3-fluoro-4-((3,3,4-trimethylpiperazin-1-yl)methyl)phenyl)ethylcarbamate as a white solid (186 mg, 49% yield).

reactant | (S)-tert-butyl 1-(3-fluoro-4-formylphenyl)ethylcarbamate | 1 mmol, 267 mg | FC=1C=C(C=CC1C=O)[C@H](C)NC(OC(C)(C)C)=O | C14H18FNO3
reactant | 1,2,2-trimethylpiperazine dihydrochloride | 2 mmol, 402 mg | Cl.Cl.CN1C(CNCC1)(C)C
reactant | sodium triacetoxyborohydride | 4 mmol, 848 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 1-(3-fluoro-4-((3,3,4-trimethylpiperazin-1-yl)methyl)phenyl)ethylcarbamate | 186 mg, 49% yield | FC=1C=C(C=CC1CN1CC(N(CC1)C)(C)C)[C@H](C)NC(OC(C)(C)C)=O | C21H34FN3O2
